US08492548B2
To a solution of (R)—((R)-quinuclidin-3-yl) 2-phenyl-2-(phenylamino)acetate (diastereomer 1 of I2) (100 mg, 0.30 mmol) in EtOAc (3 ml) and acetonitrile (2 ml), was added 2-bromo-1-(4-fluoro-2-hydroxyphenyl)ethanone (69.3 mg, 0.30 mmol), and the reaction was stirred at room temperature for 15 hours (UPLC-MS: complete conversion). The solvent was evaporated and the crude was triturated in i-Pr2O-EtOAc (1/1) to obtain (R)-1-(2-(4-fluoro-2-hydroxyphenyl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide (154.0 mg, 91% yield).

reactant | (R)—((R)-quinuclidin-3-yl) 2-phenyl-2-(phenylamino)acetate | 0.30 mmol, 100 mg | C1(=CC=CC=C1)[C@H](C(=O)O[C@H]1CN2CCC1CC2)NC2=CC=CC=C2 | C21H24N2O2
reactant | 2-bromo-1-(4-fluoro-2-hydroxyphenyl)ethanone | 0.30 mmol, 69.3 mg | BrCC(=O)C1=C(C=C(C=C1)F)O | C8H6BrFO2
solvent | EtOAc | 3 ml | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | (R)-1-(2-(4-fluoro-2-hydroxyphenyl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide | 154.0 mg, 91% yield | [Br-].FC1=CC(=C(C=C1)C(C[N+]12C[C@@H](C(CC1)CC2)OC([C@H](NC2=CC=CC=C2)C2=CC=CC=C2)=O)=O)O | InChI=1S/C29H29FN2O4.BrH/c30-22-11-12-24(25(33)17-22)26(34)18-32-15-13-20(14-16-32)27(19-32)36-29(35)28(21-7-3-1-4-8-21)31-23-9-5-2-6-10-23;/h1-12,17,20,27-28,31H,13-16,18-19H2;1H/t20?,27-,28+,32?;/m0./s1
